US06069156
Methyl 2-acetyl-3-isobutylindole-6-carboxylate (43 mg) was prepared from methyl 3-isobutylindole-6-carboxylate (99 mg) and acetyl chloride (0.073 ml) in a similar manner to that of Preparation 1 (5).

reactant | methyl 3-isobutylindole-6-carboxylate | 99 mg | C(C(C)C)C1=CNC2=CC(=CC=C12)C(=O)OC | C14H17NO2
reactant | acetyl chloride | 0.073 ml | C(C)(=O)Cl | C2H3ClO
product | Methyl 2-acetyl-3-isobutylindole-6-carboxylate | 43 mg | C(C)(=O)C=1NC2=CC(=CC=C2C1CC(C)C)C(=O)OC | C16H19NO3
